US08937091B2
3-chloropropyl-4-pyridylketone 8537
The title compound was synthesized from chlorobutyryl chloride (141 mg), pyridine (2 ml), and AlCl3 (260 mg).

reactant | chlorobutyryl chloride | 141 mg | ClCCCC(=O)Cl | C4H6Cl2O
reactant | AlCl3 | 260 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-chloropropyl-4-pyridylketone | ClCCCC(=O)C1=CC=NC=C1 | C9H10ClNO
